US06972340B2
methyl 3-(4-aminobutoxy)-1-hydroxy-2-naphthoate
To a mixture of methyl 3-{4-[(tert-butoxycarbonyl)amino]butoxy}-1-(methoxymethoxy)-2-naphthoate (28 mg, 0.064 mmol) was added 4M HCl in dioxane (1 mL). The mixture was stirred at ambient temperature for 30 minutes, concentrated under reduced pressure to provide the titled compound (19 mg, 100%) as its hydrochloride salt.

reactant | methyl 3-{4-[(tert-butoxycarbonyl)amino]butoxy}-1-(methoxymethoxy)-2-naphthoate | 0.064 mmol, 28 mg | C(C)(C)(C)OC(=O)NCCCCOC=1C(=C(C2=CC=CC=C2C1)OCOC)C(=O)OC | C23H31NO7
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | methyl 3-(4-aminobutoxy)-1-hydroxy-2-naphthoate | 19 mg, 100% | NCCCCOC=1C(=C(C2=CC=CC=C2C1)O)C(=O)OC | C16H19NO4
